US07977344B2
2-[(2,2-Dimethylpentyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
To a suspension of 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (500 mg) and 2,2-dimethylpentanol (3.8 mL) at 50° C. was added sodium hydride (396 mg, 60% dispersion) in portions. To the resultant viscous foam was added a further portion of 2,2-dimethylpentanol (1.5 mL). The reaction was stirred at 50° C. for 72 h. The reaction mixture was cooled then carefully quenched with water (10 mL) and extracted with EtOAc (3×25 mL). The organics were combined, washed with brine (30 mL), dried over MgSO4, filtered and concentrated in vacuo to give a yellow oil. This was azeotroped with toluene (×3) and the resulting viscous yellow oil was purified by C18 reverse phase chromatography (ISCO) using water (0.1% formic acid)-acetonitrile (0.05% formic acid) as eluent (30-80%) to afford the title compound as a brown solid (372 mg).

reactant | 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 500 mg | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12ClN5O
reactant | 2,2-dimethylpentanol | 3.8 mL | CC(CO)(CCC)C | C7H16O
reactant | sodium hydride | 396 mg | [H-].[Na+]
reactant | 2,2-dimethylpentanol | 1.5 mL | CC(CO)(CCC)C | C7H16O
product | 2-[(2,2-Dimethylpentyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 372 mg | CC(COC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N)(CCC)C | C17H27N5O2
